US07842688B2
a) tert-Butyl 3-[4-ethoxy-3-(3-methoxypropoxy)benzyloxy]-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate
Analogously to Method D, 0.496 g of tert-butyl 3-hydroxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate and 0.502 g of 4-bromomethyl-1-ethoxy-2-(3-methoxypropoxy)benzene are reacted. The title compound is obtained as a colourless oil. Rf=0.26 (1:2 EtOAc-heptane); Rt=6.20.

reactant | tert-butyl 3-hydroxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 0.496 g | OC1CN(CCC1C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)C(=O)OC(C)(C)C | C27H37NO6
reactant | 4-bromomethyl-1-ethoxy-2-(3-methoxypropoxy)benzene | 0.502 g | BrCC1=CC(=C(C=C1)OCC)OCCCOC | C13H19BrO3
product | tert-Butyl 3-[4-ethoxy-3-(3-methoxypropoxy)benzyloxy]-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | C(C)OC1=C(C=C(COC2CN(CCC2C2=CC=C(C=C2)OCCCOCC2=C(C=CC=C2)OC)C(=O)OC(C)(C)C)C=C1)OCCCOC | C40H55NO9
